US05403814
Example P4: Preparation of 2-(2-isopropylthiopyrid-3-yloxy)-propionic acid methyl ester (intermediate)
12.3 ml of 2-bromopropionic acid methyl ester are added dropwise at room temperature to a mixture of 16.9 g of 2-isopropylthio-3-hydroxypyridine and 15.2 g of potassium carbonate in 250 ml of dimethylformamide and the batch is stirred for 75 minutes. The suspension is introduced into a mixture of ice-water (300 ml), 50 ml of 2N hydrochloric acid and 300 ml of ethyl acetate, washed four times with 120 mi of water and 120 mi of ethyl acetate each time, and the organic phase is dried over sodium sulfate and concentrated by evaporation. 25.4 g of the desired intermediate are obtained in the form of a viscous oil.

reactant | 2-bromopropionic acid methyl ester | 12.3 ml | COC(C(C)Br)=O | C4H7BrO2
reactant | 2-isopropylthio-3-hydroxypyridine | 16.9 g | C(C)(C)SC1=NC=CC=C1O | C8H11NOS
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-isopropylthiopyrid-3-yloxy)-propionic acid methyl ester | 25.4 g | COC(C(C)OC=1C(=NC=CC1)SC(C)C)=O | C12H17NO3S
